US04923857
Imidazole (30.0 g) was added to a solution of 1-benzyl-3-hydroxymethylpyrrolidine (43.45 g) and t-butyldimethylsilyl chloride (48.5 g) in dimethylformamide(150 ml) under ice-cooling. The mixture was stirred at the same temperature for 2 hours and at ambient temperature for 15 hours. The mixture was poured into water (600 ml), extracted twice with ethyl acetate (200 ml and 100 ml), dried over magnesium sulfate and evaporated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (500 g) and eluted with a mixture of methanol and dichloromethane (5:95 V/V) to give 1-benzyl-3-t-butyldimethylsilyloxymethylpyrrolidine (60.15 g).

reactant | Imidazole | 30.0 g | N1C=NC=C1 | C3H4N2
reactant | 1-benzyl-3-hydroxymethylpyrrolidine | 43.45 g | C(C1=CC=CC=C1)N1CC(CC1)CO | C12H17NO
reactant | t-butyldimethylsilyl chloride | 48.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | 600 ml | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-3-t-butyldimethylsilyloxymethylpyrrolidine | 60.15 g | C(C1=CC=CC=C1)N1CC(CC1)CO[Si](C)(C)C(C)(C)C | C18H31NOSi
